US04061746
From 575 g of p-chlorophenyl bromide and 78 g of magnesium turnings in 2.6 liters of anhydrous ether is prepared p-chlorophenyl magnesium bromide to which is added dropwise a solution of 252 g of cyclopentanone in in 1 liter of ether. The mixture is stirred overnight and is decomposed by careful addition of dilute hydrochloric acid. The organic phase is separated, washed and dried, and the solvent is evaporated. The resulting solid is recrystallized from ethanol to give 316 g of 1-(p-chlorophenyl)cyclopentene, M.P. 71°-73° C, which was dissolved in 2.9 liters of acetic acid containing 6 ml of concentrated sulfuric acid. To this solution 133 g of 50% hydrogen peroxide is added dropwise during which time the reaction temperature is maintained at 30° to 33° C. The reaction temperature is maintained at 30° to 35° C. The reaction mixture is stirred overnight after which water is added and the product is extracted into ether. The extract is washed, dried and the solvent evaporated leaving crude 2-(p-chlorophenyl)cyclopentanone which distilled, B.P. 135°-154° C (0.1 mm) yielding 140 g. The oxime, M.P. 154°-155° C prepared by reaction with hydroxylamine hydrochloric acid is reduced using Raney nickel in alcoholic ammonia to give 1-(p-chlorophenyl)cyclopentylamine which is subsequently converted to the hydrochloride salt, M.P. 226°-228° C. Following the procedure of Example 23, only substituting for cis-2-phenylcyclopentylamine hydrochloride, an appropriate amount of 2-(p-chlorophenyl)-cyclopentylamine hydrochloride, the desired product is obtained, M.P. 253°-255° C.

reactant | p-chlorophenyl bromide | 575 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | magnesium | 78 g | [Mg] | Mg
reactant | p-chlorophenyl magnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | cyclopentanone | 252 g | C1(CCCC1)=O | C5H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 2.6 liters | CCOCC | C4H10O
solvent | ether | 1 liter | CCOCC | C4H10O
product | 1-(p-chlorophenyl)cyclopentene | 316 g | ClC1=CC=C(C=C1)C1=CCCC1 | C11H11Cl
